US05358950
10 g of 6-n-propyl-2-methyl-4-hydrazino-5-[(2'-cyano-4-biphenylyl)methyl]pyrimidine, prepared in Example 12, and 5 g of 2-methyl-2-thiopseudourea sulphate are heated to reflux for 16 hours. After the addition of water, the crystals formed are drained and washed with ether and then with ethyl acetate before taken up in dilute sodium hydroxide solution and extracted with chloroform. The organic phase is dried over magnesium sulphate and evaporated under vacuum, to give a residue which crystallises in a mixture of isopropyl ether and ethyl acetate to give 1.8 g of 7-n-propyl-5-methyl-2-amino-8-[(2 '-cyano-4-biphenylyl)methyl]-1,2,4-triazolo[1,5-c]pyrimidine in the form of crystals of melting point 150° C.

reactant | 6-n-propyl-2-methyl-4-hydrazino-5-[(2'-cyano-4-biphenylyl)methyl]pyrimidine | 10 g | C(CC)C1=C(C(=NC(=N1)C)NN)CC1=CC=C(C=C1)C1=C(C=CC=C1)C#N | C22H23N5
reactant | 2-methyl-2-thiopseudourea sulphate | 5 g | S(=O)(=O)(O)O.CSC(N)=N
solvent | water | O | H2O
product | 7-n-propyl-5-methyl-2-amino-8-[(2 '-cyano-4-biphenylyl)methyl]-1,2,4-triazolo[1,5-c]pyrimidine | 1.8 g | C(CC)C1=C(C=2N(C(=N1)C)N=C(N2)N)CC2=CC=C(C=C2)C2=C(C=CC=C2)C#N | C23H22N6
